US04931581
Preparation of 2-benzylmercapto-5-bromo-3-nitrobenzoic acid methyl ester (intermediate)
71.6 g (0.58 mol) of benzyl mercaptan are dissolved in 2.9 l of methanol/water (8:2), and 79.8 g (0.58 mol) of potassium carbonate are added. At 0°-5° C., 170 g (0.58 mol) of 5-bromo-2-chloro-3-nitrobenzoic acid methyl ester are added in portions over a period of 2.5 hours with stirring. Stirring is then continued for a further 2 hours and the internal temperature is then raised to 20° C. The resulting precipitate is then isolated by filtration, washed with a small amount of water and subsequently with 500 ml of methanol/water. After drying, 208 g (94%) of pale yellow product are obtained. Recrystallisation from 400 ml of methanol gives 190 g (86% of the theoretical yield) of product having a melting point of 65°-66° C.

reactant | benzyl mercaptan | 0.58 mol, 71.6 g | C(C1=CC=CC=C1)S | C7H8S
reactant | potassium carbonate | 0.58 mol, 79.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-2-chloro-3-nitrobenzoic acid methyl ester | 0.58 mol, 170 g | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])Cl)=O | C8H5BrClNO4
solvent | methanol water | 2.9 l | CO.O
product | 2-benzylmercapto-5-bromo-3-nitrobenzoic acid methyl ester | 208 g, 94% | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])SCC1=CC=CC=C1)=O | C15H12BrNO4S
